US07439260B2
Step 1: 7-hydroxy-4-phenyl-2H-chromen-2-one
Concentrated H2SO4 (65 ml) was added to a mixture of resorcinol (26.7 g, 242.4 mmol) and ethyl benzoylacetate (51.26 g, 266.7 mmol) at 0° C. The resulting suspension was stirred for 24 h at room temperature. Water (2 L) was added and the mixture was stirred for 1 h. The solid was filtered, washed with water (2 L) and dried to give 55.78 g of the titled compound.

reactant | H2SO4 | 65 ml | OS(=O)(=O)O | H2O4S
reactant | resorcinol | 242.4 mmol, 26.7 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | ethyl benzoylacetate | 266.7 mmol, 51.26 g | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
solvent | Water | 2 L | O | H2O
product | 7-hydroxy-4-phenyl-2H-chromen-2-one | 55.78 g | OC1=CC=C2C(=CC(OC2=C1)=O)C1=CC=CC=C1 | C15H10O3
